US09079866B2
5-{5-[2-(Morpholin-4-ylcarbonyl)phenyl]pyridin-2-yl}pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 427 using 5-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)pyrimidin-2-amine and (2-bromophenyl)(morpholino)methanone. MS (ESI): mass calcd. for C20H19N5O2, 361.15; m/z found, 362.1 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.96 (s, 2H), 8.69-8.64 (m, 1H), 7.95-7.87 (m, 2H), 7.64-7.59 (m, 1H), 7.58-7.51 (m, 2H), 7.49-7.42 (m, 1H), 3.69-3.54 (m, 3H), 3.48-3.33 (m, 2H), 3.20-3.07 (m, 1H), 2.97-2.80 (m, 2H).

reactant | 5-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)pyrimidin-2-amine | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C=1C=NC(=NC1)N)C | C15H19BN4O2
reactant | (2-bromophenyl)(morpholino)methanone | BrC1=C(C=CC=C1)C(=O)N1CCOCC1 | C11H12BrNO2
product | 5-{5-[2-(Morpholin-4-ylcarbonyl)phenyl]pyridin-2-yl}pyrimidin-2-amine | N1(CCOCC1)C(=O)C1=C(C=CC=C1)C=1C=CC(=NC1)C=1C=NC(=NC1)N | C20H19N5O2
